US06458796B1
5-Benzo[1,3]dioxol-5-ylmethyl-3-[1-methyl-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
Analogously to the procedure of Example 5, the title compound is prepared from 18 mg (0.066 mmol) of 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide and 40.8 g (0.21 mmol) of methyl 3,4-methylenedioxyphenylacetate.

reactant | 5-amino-1-(1-methyl-4-phenyl-butyl)-1H-[1,2,3]triazole-4-carboxamide | 0.066 mmol, 18 mg | NC1=C(N=NN1C(CCCC1=CC=CC=C1)C)C(=O)N | C14H19N5O
reactant | methyl 3,4-methylenedioxyphenylacetate | 0.21 mmol, 40.8 g | C1OC=2C=C(C=CC2O1)CC(=O)OC | C10H10O4
product | 5-Benzo[1,3]dioxol-5-ylmethyl-3-[1-methyl-4-phenyl-butyl]-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | O1COC2=C1C=CC(=C2)CC=2NC(C1=C(N2)N(N=N1)C(CCCC1=CC=CC=C1)C)=O | C23H23N5O3
